US08431581B2
1-[2-((2R,6R)-2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-3-(1,1-dioxo-1lambda*6*-isothiazolidin-2-yl)-6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid 2-dimethylsulfamoyl-4-fluoro-benzylamide
1-[2-((2R,6R)-2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-3-(1,1-dioxo-1lambda*6*-isothiazolidin-2-yl)-6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester (30 mg, 0.062 mmol) was dissolved in MeOH (1 mL) and 2-aminomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide (22 mg, 0.093 mmol) was added. The reaction was heated at reflux for 24 hours then filtered hot and the filtrate concentrated. The product was recrystalised from methanol and ether and isolated (17 mg, 43% yield) as a pale yellow solid.

reactant | 1-[2-((2R,6R)-2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-3-(1,1-dioxo-1lambda*6*-isothiazolidin-2-yl)-6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 0.062 mmol, 30 mg | COC(=O)C=1N=C2N(C(C1O)=O)C(=CN2CC(=O)N2C[C@H](O[C@@H](C2)C)C)N2S(CCC2)(=O)=O | C19H25N5O8S
reactant | 2-aminomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | 0.093 mmol, 22 mg | NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H13FN2O2S
solvent | MeOH | 1 mL | CO | CH4O
product | 1-[2-((2R,6R)-2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-3-(1,1-dioxo-1lambda*6*-isothiazolidin-2-yl)-6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid 2-dimethylsulfamoyl-4-fluoro-benzylamide | 43% yield | CN(S(=O)(=O)C1=C(CNC(=O)C=2N=C3N(C(C2O)=O)C(=CN3CC(=O)N3C[C@H](O[C@@H](C3)C)C)N3S(CCC3)(=O)=O)C=CC(=C1)F)C | C27H34FN7O9S2
